US08383635B2
2-[(3-aminopropyl)amino]-4-[(2,2-dioxido-1,3-dihydro-2-benzothien-5-yl)amino]pyrido[4,3-d]pyrimidin-5(6H)-one
The compound was prepared from 4-[(2,2-dioxido-1,3-dihydro-2-benzothien-5-yl)amino]-2-(methylthio)pyrido[4,3-d]pyrimidin-5(6H)-one using mCPBA/1,1-dimethylethyl (3-aminopropyl)carbamate and TFA sequences similar to that described for Example 1 (Scheme 2).

reactant | 4-[(2,2-dioxido-1,3-dihydro-2-benzothien-5-yl)amino]-2-(methylthio)pyrido[4,3-d]pyrimidin-5(6H)-one | O=S1(CC2=C(C1)C=CC(=C2)NC=2C1=C(N=C(N2)SC)C=CNC1=O)=O | C16H14N4O3S2
reactant | mCPBA 1,1-dimethylethyl (3-aminopropyl)carbamate | C1=CC(=CC(=C1)Cl)C(=O)OO.NCCCNC(OC(C)(C)C)=O
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
product | 2-[(3-aminopropyl)amino]-4-[(2,2-dioxido-1,3-dihydro-2-benzothien-5-yl)amino]pyrido[4,3-d]pyrimidin-5(6H)-one | NCCCNC=1N=C(C2=C(N1)C=CNC2=O)NC2=CC1=C(CS(C1)(=O)=O)C=C2 | C18H20N6O3S
